US07265225B2
B. Preparation of 6-methyl-pyridine-2-carboxylic Acid Methyl Ester
Suspend 6-methyl-pyridine-2-carboxylic acid (10 g, 72.9 mmol) in methylene chloride (200 mL). Cool to 0° C. Add methanol (10 mL), 4-dimethylaminopyridine (11.6 g, 94.8 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (18.2 g, 94.8 mmol). Stir the mixture at room temperature for 6 hours, wash with water and brine, and dry over sodium sulfate. Filter the mixture and concentrate in vacuo. Chromatograph the residue on SiO2 (50% ethyl acetate/hexanes) to obtain the desired subtitled intermediate, 9.66 g (92%), as a colorless liquid.

reactant | 6-methyl-pyridine-2-carboxylic acid | 72.9 mmol, 10 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | methanol | 10 mL | CO | CH4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 94.8 mmol, 18.2 g | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 94.8 mmol, 11.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-methyl-pyridine-2-carboxylic Acid Methyl Ester | COC(=O)C1=NC(=CC=C1)C | C8H9NO2
